US06552021B2
A solution of methyl 2-(1H-indazol-4-ylamino)-3-nitrobenzoate (254 mg, 0.85 mmol) in 2 M NaOH (20 mL) was stirred at room temperature for 1 h to complete hydrolysis to 2-(1H-indazol-4-ylamino)-3-nitrobenzoic acid then NaBH4 (194 mg, 5.11 mmol) was added and the mixture heated under reflux for 30 min. The mixture was then acidified with conc. HCl, then glacial AcOH, until the pH reached 5. This aqueous solution was then extracted with EtOAc (3×50 mL), the extracts combined and dried (Na2SO4), and the solvent removed under reduced pressure. Crystallization from acetone gave 3H-pyrazolo[4,3-a]phenazine-10-carboxylic acid (97 mg, 43%); mp 305-310° C.; 1H NMR [(CD3)2SO] δ 7.98 (br s, 1 H, H-4), 8.07 (dd, J=8.6, 7.2 Hz, 1 H, H-8), 8.20 (d, J=9.2 Hz, 1 H, H-5), 8.53 (dd, J=8.5, 1.3 Hz, 1 H, H-7 or H-9), 8.60 (dd, J=7.1, 1.3 Hz, 1 H, H-9 or H-7), 8.90 (v br s, 1 H, H-1), 14.26 (v br s, 1 H, NH or COOH), 14.76 (v br s, 1 H, NH or COOH).

reactant | methyl 2-(1H-indazol-4-ylamino)-3-nitrobenzoate | 0.85 mmol, 254 mg | N1N=CC2=C(C=CC=C12)NC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C15H12N4O4
reactant | 2-(1H-indazol-4-ylamino)-3-nitrobenzoic acid | N1N=CC2=C(C=CC=C12)NC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C14H10N4O4
reactant | NaBH4 | 5.11 mmol, 194 mg | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | NaOH | 2 M, 20 mL | [OH-].[Na+]
solvent | AcOH | CC(=O)O | C2H4O2
product | 3H-pyrazolo[4,3-a]phenazine-10-carboxylic acid | 97 mg, 43% | C1=NNC=2C1=C1N=C3C(=CC=CC3=NC1=CC2)C(=O)O | C14H8N4O2
